US04605737
1,3,5-Triazine-1,3,5(2H, 4H, 6H)triethanol Monooleate
1,3,5-Tris(2-hydroxyethyl)perhydro-s-tria-zine (21.6 g, 0.1 mole) and potassium carbonate (35 g) are combined in a mixture of 50 ml of water and 150 ml of methylene chloride at 0° C. Oleic acid chloride (30 g, 0.1 mole) in 50 ml of methylene chloride is added at a rate such that the reaction mixture is retained at a temperature below about 10° C. After complete addition, the mixture is stirred at 0° C. for 15 hours and then at about 25° C. for an additional 16 hours. The organic layer is separated, dried over magnesium sulfate and concentrated to a yellow oil. Analysis by infrared spectroscopy and nuclear magnetic resonance spectroscopy identify the product as 1,3,5-triazine-1,3,5-(2H, 4H, 6H)triethanol monooleate.

reactant | 1,3,5-Tris(2-hydroxyethyl)perhydro-s-tria-zine | 0.1 mole, 21.6 g | OCCN1CN(CN(C1)CCO)CCO | C9H21N3O3
reactant | potassium carbonate | 35 g | C([O-])([O-])=O.[K+].[K+]
reactant | Oleic acid chloride | 0.1 mole, 30 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)Cl | C18H33ClO
solvent | water | 50 ml | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,3,5-Triazine-1,3,5(2H, 4H, 6H)triethanol Monooleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCCN1CN(CN(C1)CCO)CCO | C27H53N3O4
